Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___
 
Chief Complaint:
febrile neutropenia
 
Major Surgical or Invasive Procedure:
Lumbar puncture 
 
History of Present Illness:
___ year old female DLBLC,  history of transformed diffuse large 
B
cell lymphoma s/p a curative attempt with an autoSCT with BEAM 
conditioning in ___ ___s IFRT with course complicated 
by ___ pneumonitis, who was subsequently found to have
treatment-related MDS now on decitabine, with neutropenia and ~4
weeks broad spectrum antibiotics for empiric L4-5
discitis/osteomyelitis, readmitted mid ___ for acute history of
word finding difficulty and nausea vomiting without apparent
source, now presenting with 2 days of nausea/vomiting, fever, 
and
urinary incontinence.

Note her recent admit ___ she was recently admitted with
mental status changes and vague confusion/word finding 
difficulty
and nausea/vomiting. She had been seen by ID ___ with concern 
for
infection vs DVT of LLE where she has a slow healing wound, but
ultrasound was reassuring, but on the way home from appointment
she vomited and had chills, but no fevers She did have
enterococcus UTI on admission, which didn't seem to be true UTI
or explain her focal neurologic deficits, especially as she had
been on vancomycin, but given low risks she did complete 5d
course of amp/amox. On discharge she was continued on ppx cipro
and fluc.

She was next and last seen by ___ on ___ at which point she was
C2D22 dacogen. plan for dacogen ___ next at ___.  Mental
status had resolved. Her ANC was 0 at time of that visit. 

She reports feeling fairly well until ___ night when she 
began
developing extreme fatigue and generalized weakness. Also had 1x
episode where she suddenly had to urinate and was incontinent of
urine. This happened again yesterday. No dysuria. No back pain,
no headaches, visual changes, and no one extremity has been
particularly weak compared to the rest of her body ( endorses 
leg
weakness but in line with generalized body weakness). She also
has been vomiting when she tries to eat for the past 48 hrs and
has no appetite but denies any melena, diarrhea, abd pain, and
had regular formed BM today and continues passing gas. Is 
burping
more than usual however. NO chest pain, dyspnea, cough, sore
throat, runny nose, or rash. All other 10 point ROS neg.

ED COURSE:
T 100.2 up to 101.4  HR 110 BP 148/58  RR 18  94% RA. Pt 
received
linezolid, zosyn, IV APAP, multiple liters of LR. Labs with
lactate 1.1, 
 
Past Medical History:
TRANSPLANT DATA:
___: Transplant Date: 1
          Graft: Auto
          Conditioning Intensity: Ablative
          Conditioning Regimen: BEAM

PAST ONCOLOGIC HISTORY:
Transformed DLBCL with a history of follicular lymphoma stage 
IIA
- ___ developed worsening musculoskeletal back pain, early
satiety, hypoalbuminemia and found to have mesenteric mass
- ?___ ex lap with 15 cm lobulated mass involving the
duodenum, retroperitoneum and celiac access.  Biopsies showed
Follicular lymphomas grade II/III.  Reportedly negative staging
Gallium scan. CD10+ BCL2+
- ___ completed 6 cycles CHOP, complications included
SVC/innominate thrombus (tPA)
- ___ CT showed persistent 7 x 3.5 x 9 cm oblong mass, bone
marrow at completion was negative for lymphomatous involvement.
- ___ PET-CT with very slight amount of increased tracer
activity within the posterior left supraclavicular region. No
other areas of FDG avid disease were noted 
- ___ through ___ per records she was treated with CVP
followed by course of single agent Rituxan
- ___ through ___ surveillance imaging with no evidence of
recurrent disease, stable mesenteric mass.
- ___ abdominal pain led to CT with no change in mass size,
increased conspicuity of nodular borders
- ___ PET-CT with L. hilar LN PET-avid to SUV 7.9, otherwise
stable mesenteric mass with low level SUV 2.2 stable since 
prior.
- ___ CT torso showed persistent mesenteric and left hilar
lymphadenopathy. Stable right middle lobe small focus of ground
glass opacity and adjacent subpleural fat hypertrophy, 
suggestive
of inflammatory process. Stable right adnexal cyst.  
- ___ Presented to PCP ___ ___iscomfort. 
Exam
revealed new adenopathy. Labs notable for LDH 341, WBC 10.1,
normal differential, PLT 452. 
- ___ PET CT revealed, "Large left cervical,
supraclavicular, mediastinal lymphadenopathy, and 
retroperitoneal
lymphadenopathy, and small mesenteric
lymphadenopathy, all markedly FDG-avid and concerning for
lymphoma." SUVmax 35.5.
- ___iopsy revealed diffuse large B cell
lymphoma, CD20+ CD10+ lambda restricted. MIB and cytogenetics 
are
pending
- ___ C1D1 ICE
- ___ C1 Rituximab, clinically improved adenopathy
- ___ C2 Rituximab, WBC 6.5, PLT 43
- ___ Admit for C2D1 ICE
- ___ C3 Rituximab
- ___ PET CT showed almost complete resolution of FDG avid
disease with a residual focus of avidity in the bed of the 
former
abdominal mass, SUV 3
- ___ C4 Rituximab
- ___ C4 ICE followed by stem cell mobilization and
collection, BMBx showed a nest of CLL unrelated to her 
aggressive
lymphoma
- ___ Presented with large DVTs, SVC filter placed
- ___ D0 of a BEAM autoSCT, course notable for mucositis
- ___ Switched to Rivaroxiban for AC
- ___ PET CT ___, PFTs with normal Hb adjusted DLCO
- ___ IVIg 400 mg/kg c/b fever, aseptic meningitis,
cytopenias
- ___ Start XRT
- ___ Presented w dyspnea, DLCO 79% predicted (adjusted for
Hb). Started prednisone 80 mg PO daily
- ___ DLCO 96%, reduce prednisone to 50 mg PO daily
- ___ DLCO 111%, reduce prednisone to 30 mg PO daily
- ___ DLCO 84%, pulse steroids, increase prednisone to 50 
mg
PO daily. PLT 81, Bactrim switched to Dapsone for PCP ___.
- Weekly monitoring of DLCO with taper of prednisone to 10 mg
daily as of ___ with DLCO 99%.  Dapsone d/ced on ___
due to hemolysis.
- ___ Decreased prednisone to 5 mg PO daily. Noro virus
persistently positive. 
- ___ CT torso with no evidence of active disease.
Unchanged mesenteric fullness. 
- ___ DLCO decrease (not reported) increase prednisone to 
10
mg
- ___ IVIg 400 mg/kg
- ___ DLCO 121%, continue prednisone 10 mg
- IVIg 400 mg/kg, continues monthly for Hypogammaglobuonemia.
- ___, tapered off prednisone.
- ___, CT torso with no evidence of active disease. Stable
appearance of a conglomeration of mesenteric lymph nodes. 
- ___, Right total knee replacement, primary, complicated
by foot drop likely d/t irritation of peroneal nerve and
cellulitis.
- ___, CT Torso with no evidence of active disease. 
Stable appearance of conglomerate of mesenteric LN's. Increased
dilatation of the main pulmonary artery suggests worsening
pulmonary arterial hypertension of indeterminate etiology.
- ___, CT torso with no evidence of active disease. Increased
dilation of pulmonary artery.  Evaluated by Dr. ___
- ___, increasing right leg swelling with noted DVT.  Xarelto
increased back to 20 mg daily(had been decreased given age and
prior chronic DVT).  No evidence for lymphoma on CT imaging.
- ___, noted drop in blood counts.  BM biopsy with evidence
for MDS.
- ___, C1 Dacogen
- ___, C2 Dacogen
- ___, C3 Dacogen
 
OTHER PAST MEDICAL HISTORY
- CVID, received IVIG monthly. last given ___
- GERD                                          
- Osteoarthritis                                         
- DVT, right lower extremity, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- H/O cerebral aneurism, noted on MRA with small R internal
carotid cavernous sinus aneurysm; coil placed in the aneurysm
(___).  On Neurontin.  Exam notable for slight CN 6 palsy of
the right eye, mild proptosis of the right eye, and hyperthesia
of the right V1 distribution
- Asthma
- Obesity
- Hypertension
- Migraines
 
Social History:
___
Family History:
brother - lymphoma

 
Physical ___:
Admission Physical Exam
VITAL SIGNS: 98.0  109/68  83  18  97%RA
General:  NAD but weak, seems to have some mild dyspnea but
states this is baseline and denies SOB
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
GI:  protuberant abd but BS+, soft, NTND, no masses or
hepatosplenomegaly
LIMBSSKIN:  ___ with mild trace pitting edema up to knees, well
healing ulceration over anterior shins and no skin breakdown
otherwise no erythema/rashes. port without erythema/drainage
NEURO: generally weak and fatigued but conversant, alert,
Oriented x3. Cranial nerves II-XII are within normal limits
excluding visual acuity which was not assessed, no nystagmus;
strength is ___ of the proximal and distal upper and lower
extremities but symmetric on both sides. no tremor/ asterixis.
Neck supple.

Discharge Physical Exam
VS: 98.0 119/75 87 18 97 RA  
General: sitting comfortably in recliner eating breakfast, NAD.
HEENT: moist mucus membranes, no OP lesions. Right pupil fixed
and right eye with gaze palsy 
CV: RRR, ___ systolic murmur at LLSB. 
PULM: CTAB, no crackles, wheeze, rhonchi 
GI: Soft, NT, ND, +BS. 
EXT: ___ with trace edema bilat, right leg slightly larger than
left with well healed ulceration over anterior right shin and no
skin breakdown.  
SKIN: No new rashes or lesions. Chronic venous stasis changes
bilat c/w lipodermatosclerosis
NEURO: A&Ox3. Chronic and stable R sided facial droop and 
ptosis.

 
Pertinent Results:
Admission Labs
___ 04:45PM BLOOD WBC-0.3* RBC-2.83* Hgb-8.4* Hct-26.0* 
MCV-92 MCH-29.7 MCHC-32.3 RDW-16.3* RDWSD-46.7* Plt Ct-74*
___ 04:45PM BLOOD Neuts-8* Bands-0 Lymphs-86* Monos-6 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-0.02* AbsLymp-0.26* 
AbsMono-0.02* AbsEos-0.00* AbsBaso-0.00*
___ 04:45PM BLOOD Glucose-123* UreaN-14 Creat-0.9 Na-137 
K-4.2 Cl-103 HCO3-21* AnGap-17
___ 04:45PM BLOOD ALT-9 AST-14 AlkPhos-135* TotBili-0.3
___ 04:45PM BLOOD Albumin-3.9
___ 05:01PM BLOOD Lactate-1.1
___ 05:37PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:37PM URINE Blood-SM  Nitrite-NEG Protein-600 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 05:37PM URINE RBC-3* WBC-1 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 05:37PM URINE Mucous-RARE
___ 05:37PM URINE CastHy-3*
___ 05:56PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

Discharge Labs
___ 12:02AM BLOOD WBC-2.9* RBC-2.80* Hgb-8.4* Hct-26.6* 
MCV-95 MCH-30.0 MCHC-31.6* RDW-17.4* RDWSD-51.3* Plt Ct-83*
___ 12:02AM BLOOD Neuts-58.2 ___ Monos-8.9 Eos-0.0* 
Baso-0.3 NRBC-1.0* Im ___ AbsNeut-1.70 AbsLymp-0.91* 
AbsMono-0.26 AbsEos-0.00* AbsBaso-0.01
___ 12:02AM BLOOD ___ PTT-40.8* ___
___ 12:02AM BLOOD  WBC-2.9* Lymph-31 Abs ___ CD3%-70 
Abs CD3-627 CD4%-42 Abs CD4-382 CD8%-26 Abs CD8-236 CD4/CD8-1.62
___ 12:02AM BLOOD Glucose-118* UreaN-12 Creat-0.9 Na-139 
K-4.2 Cl-102 HCO3-23 AnGap-18
___ 12:02AM BLOOD Albumin-3.5 Calcium-8.3* Phos-2.6* Mg-2.1

Microbiology: Extensive workup including numerous blood 
cultures, spinal tap,  negative except for corona virus on 
extended respiratory multiplex panel. Please see OMR for 
details.

Imaging: All imaging consistent with priors. No signs of 
infection. Performed Ultrasounds BLE negative, Brain/Spine MRI, 
CXR, RUE ultrasound.

 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with history of transformed 
diffuse large B cell lymphoma s/p a curative attempt with an 
autoSCT with BEAM conditioning in ___ ___s IFRT with 
course complicated by ___ pneumonitis, who was subsequently 
found to have treatment-related MDS now on decitabine, with 
neutropenia and 6 weeks broad spectrum antibiotics for empiric 
L4-5 discitis/osteomyelitis, readmitted mid ___ for acute 
history of word finding difficulty and nausea vomiting without 
apparent source, presenting with 2 days of nausea/vomiting, 
fever, and
urinary incontinence. Incredibly extensive infectious workup 
negative and fevers now resolved after almost two weeks on broad 
spectrum antibiotics.

# Pancytopenia/MDS - per outpt decision made to treat with 
Dacogen with plan to move towards allogeneic transplant. Was due 
for decitabine ___. Extensive infectious workup and ultimately 
started Decitabine ___ and completed cycle in the hospital 
without further incident.

#Elevated liver enzyemes: Unclear cause, but may be related to 
posaconazole level of ___. Posaconazole held starting ___ 
enzymes trending down. Plan to restart as outpatient.

#Neutropenic fever: Resolving after several weeks of workup with 
no clear correlation to particular treatment or any source 
identified. Did have positive coronavirus on multiplex pcr. 

#Lower back pain: continued gabapentin

#Hx of right leg DVT:  Was on Xarelto 20 mg daily but now on 
hold with low platelet count.  Has IVC filter in place.  Will 
continue to hold for platelet count < 75,000. No anticoagulation

#Depression: Continue home venlafaxine
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO BID 
2. Cyanocobalamin 1000 mcg PO QHS 
3. Docusate Sodium 100 mg PO BID 
4. FoLIC Acid 3.2 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Gabapentin 900 mg PO TID 
7. Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheeze  
8. Omeprazole 20 mg PO DAILY 
9. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: changing dose
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Potassium Chloride 10 mEq PO DAILY 
12. Senna 8.6 mg PO BID:PRN constipation 
13. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
14. Venlafaxine 25 mg PO BID 
15. Ciprofloxacin HCl 500 mg PO Q12H 
16. Fluconazole 400 mg PO Q24H 
17. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H 
18. albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing 
19. Diazepam 5 mg PO QHS 
20. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN nasal 
congestion 
21. Rivaroxaban 20 mg PO DAILY 
22. Acyclovir 400 mg PO Q8H 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H  
2.  albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing  
3.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H  
4.  Ascorbic Acid ___ mg PO BID  
5.  Cyanocobalamin 1000 mcg PO QHS  
6.  Diazepam 5 mg PO QHS  
7.  Docusate Sodium 100 mg PO BID  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN nasal 
congestion  
9.  FoLIC Acid 3.2 mg PO DAILY  
10.  Gabapentin 900 mg PO TID  
11.  Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheeze   
12.  Omeprazole 20 mg PO DAILY  
13.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
14.  Rivaroxaban 20 mg PO DAILY  
15.  Senna 8.6 mg PO BID:PRN constipation  
16.  Venlafaxine 25 mg PO BID  
17. HELD- Fluconazole 400 mg PO Q24H  This medication was held. 
Do not restart Fluconazole until you are directed to. 
18. HELD- Furosemide 20 mg PO DAILY  This medication was held. 
Do not restart Furosemide until you are directed to by your 
outpatient oncologist. 
19. HELD- Potassium Chloride 10 mEq PO DAILY  This medication 
was held. Do not restart Potassium Chloride until you speak with 
your doctor. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Myelodysplastic syndrome
Neutropenic fever 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for fever, nausea, and vomiting. We 
did several tests to identify the cause of these symptoms but 
were unable to find a source of infection. You were treated with 
a strong antibiotic and you improved. 

We also gave you a cycle of chemotherapy, which you tolerated 
well. 

There have been some changes to your medications which are 
outlined below. 

You will have follow-up with Dr. ___ week. You will be 
contacted with the specific day and time. 

Please contact Dr. ___ if you have any questions or 
concerns. Someone is available to help at any time, day or 
night. 

It was a pleasure taking care of you and we wish you the best, 
The ___ Care Team 
 
Followup Instructions:
___